* source B1
R_R1         N06354 N06345  12 TC=0,0 
V_V1         N06354 0 10Vdc
R_R2         N07177 N06345  3.55 TC=0,0 
V_V2         N07321 0 4Vdc
X_H1    N06345 N07321 N07177 0 SCHEMATIC1_H1 

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
